US08476286B2
A solution of 0.5 g (1.96 mmol) (2-amino-3-hydroxy-phenyl)-(4-isopropyl-phenyl)-methanone, 0.85 ml (9.8 mmol) dibromoethane and 0.67 ml (3.9 mmol) N-ethyl-diisopropylamine in 3 ml dioxane is heated to 100° for 5 d. After extraction with water/dichloromethane the crude product is purified by flash chromatography using a gradient going from hexanes to hexanes/ethyl acetate 7:1 to yield (3,4-dihydro-2.H.-benzo[1,4]oxazin-5-yl)-(4-isopropyl-phenyl)-methanone.

reactant | (2-amino-3-hydroxy-phenyl)-(4-isopropyl-phenyl)-methanone | 1.96 mmol, 0.5 g | NC1=C(C=CC=C1O)C(=O)C1=CC=C(C=C1)C(C)C | C16H17NO2
reactant | dibromoethane | 9.8 mmol, 0.85 ml | BrC(C)Br | C2H4Br2
reactant | N-ethyl-diisopropylamine | 3.9 mmol, 0.67 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | (4-isopropyl-phenyl)-methanone | C(C)(C)C1=CC=C(C=C1)C=O | C10H12O
